US05344843
A mixture of 4-[[2-[[2-(phenoxy)ethyl]oxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.7 g) in methanol and 0.5N sodium hydroxide (8 mL) was treated as in Example 19. Extraction provided solids which were crystallized from benzene-hexane to give 0.6 g of colorless 4-[[2-[[2-(phenoxy)ethyl]oxy]ethyl]oxy]-alpha-oxobenzeneacetic acid, mp 58°-59° C.

reactant | 4-[[2-[[2-(phenoxy)ethyl]oxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.7 g | COC(C(C1=CC=C(C=C1)OCCOCCOC1=CC=CC=C1)=O)=O | C19H20O6
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
product | 4-[[2-[[2-(phenoxy)ethyl]oxy]ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.6 g | O(C1=CC=CC=C1)CCOCCOC1=CC=C(C=C1)C(C(=O)O)=O | C18H18O6
